US07645785B2
Concentrated HCl (25% in water, 0.5 mL) was added to a solution of {2-[benzoyl-(cyclohexyl-cyclohexylcarbamoyl-methyl)-amino]phenyl}-carbamic acid tert-butyl ester (64 mg, 0.12 mmol) in methanol (2.0 mL). The reaction mixture was heated in a focussed microwave (CEM Discovery) at 145° C., for 3 minutes with stirring. The reaction mixture was then evaporated to afford 2,N-dicyclohexyl-2-(2-phenyl-benzoimidazol-1-yl)-acetamide hydrogen chloride, 46 mg (85%) as a pale yellow solid. MS (ES+): 416 (M+H).

reactant | HCl | 0.5 mL | Cl | ClH
reactant | {2-[benzoyl-(cyclohexyl-cyclohexylcarbamoyl-methyl)-amino]phenyl}-carbamic acid tert-butyl ester | 0.12 mmol, 64 mg | C(C)(C)(C)OC(NC1=C(C=CC=C1)N(C(C(NC1CCCCC1)=O)C1CCCCC1)C(C1=CC=CC=C1)=O)=O | C32H43N3O4
solvent | methanol | 2.0 mL | CO | CH4O
product | 2,N-dicyclohexyl-2-(2-phenyl-benzoimidazol-1-yl)-acetamide hydrogen chloride | Cl.C1(CCCCC1)C(C(=O)NC1CCCCC1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H33N3O.ClH/c31-27(28-22-16-8-3-9-17-22)25(20-12-4-1-5-13-20)30-24-19-11-10-18-23(24)29-26(30)21-14-6-2-7-15-21;/h2,6-7,10-11,14-15,18-20,22,25H,1,3-5,8-9,12-13,16-17H2,(H,28,31);1H
